US08486950B2
2,6-dichloro-N-(pyrimidin-4-yl)benzamide
4-aminopyrimidine (0.16 g, 1.72 mmol) was added to a cooled (0° C.) mixture of NaH (0.17 g, 4.25 mmol, 60% in mineral oil) in DMF (5 mL). The resulting mixture was stirred for 20 minutes under N2 at 0° C. and then 2,6-dichlorobenzoyl chloride (0.3 g, 1.43 mmol) was added dropwise. After one hour the reaction was poured into the ice-water (20 mL). The mixture was extracted with EtOAc (2×50 mL) and the combined organic extracts were concentrated under reduced pressue. The residue was purified by silica gel column chromatography (EtOAc/hexanes=1:1) to afford the desired product (38 mg, yield 10%). 1HNMR: (DMSO-d6, 400 MHz): 611.73 (s, 1H), 8.91 (s, 1H), 8.74 (d, J=5.6 Hz, 1H), 8.17 (d, J=5.6 Hz, 1H), 7.55-7.47 (m, 3H). LCMS (ESI) m/z: 267.8 [M+H+]

reactant | 4-aminopyrimidine | 1.72 mmol, 0.16 g | NC1=NC=NC=C1 | C4H5N3
reactant | NaH | 4.25 mmol, 0.17 g | [H-].[Na+]
reactant | 2,6-dichlorobenzoyl chloride | 1.43 mmol, 0.3 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2,6-dichloro-N-(pyrimidin-4-yl)benzamide | 38 mg, yield 10% | ClC1=C(C(=O)NC2=NC=NC=C2)C(=CC=C1)Cl | C11H7Cl2N3O
